US07276516B2
4-(3-Cyclopentyl-indole-1-sulfonyl)-N-pyridin-3yl-methyl-benzamide
Stir a mixture of 4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid (0.188 g, 0.50 mmol), PyBOP (0.0.288 g, 0.50 m mol), and 3-amino-pyridine (0.063 g, 0.59 mmol) in dry CH2Cl2 (10 mL) under N2 add Hunigs base (0.148 g, 0.200 mL, 1.11 mmol). Stir overnight the reaction at ambient temperature and evaporate on the rotary evaporator. Chromatograph the residue on the ISCO using a 40 g column and a hexane-EtOAc gradient system (0-100%) to give 0.048 g of the title compound as a white foam. Mass spectrum (m/e) (M+H) 460.1697; found 460.1681.

reactant | 4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid | 0.50 mmol, 0.188 g | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C20H19NO4S
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-amino-pyridine | 0.59 mmol, 0.063 g | NC=1C=NC=CC1 | C5H6N2
reactant | Hunigs base | 1.11 mmol, 0.200 mL, 0.148 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Cyclopentyl-indole-1-sulfonyl)-N-pyridin-3yl-methyl-benzamide | 0.048 g | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC(=C(C(=O)NC=2C=NC=CC2)C=C1)C | C26H25N3O3S
